US08426420B2
iii) 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester
To a solution of 327 mg 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 5 ml DMF were added 415 μl DIPEA, 302 mg HATU and 360 mg 4-[(S)-2-amino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate. After 30 minutes the reaction mixture was concentrated and the crude product obtained purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 180 mg

reactant | 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 327 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | DIPEA | 415 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 302 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-[(S)-2-amino-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | 360 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NNN1)N)=O | C14H25N7O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-(2H-tetrazol-5-yl)-butyryl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC=1N=NNN1)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C35H47N11O7
